Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
hematuria
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
 ___ year old male with BPH, elevated PSA, and h/o right 
nephrectomy who is on the medical service being treated for a 
UTI. He has CKD and his creatinine is
at its baseline (1.5-1.7). He was started on Macrobid several
days ago by an outpatient provider with mild improvement in his
symptoms. CT scan demonstrates some peripelvic cysts and a
nonobstructing small left renal stone but no hydronephrosis. 

Most recent US demonstrates a prostate size of 109g. PVR 27 cc.
He does not have a foley catheter in place and is voiding 
without
issue. 

PSA trend
___ 32.9*  
___ 5.6*  
___ 5.9*  

 
Past Medical History:
BPH, elevated PSA, CKD, and h/o right nephrectomy due to ___
 
Social History:
___
Family History:
FAMILY HISTORY: Reviewed and found to be not relevant to this
illness/reason for hospitalization.

 
Physical Exam:
VITALS: Afebrile and vital signs significant for normotensive, 
HR
77
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
PSA trend
___ 32.9*  
___ 5.6*  
___ 5.9*  

Radiology, reviewed:
CT, from ___:
1. No definite hydronephrosis or hydroureter. What appeared to
represent possible mild left-sided hydronephrosis on the same 
day
ultrasound likely correlates with multiple peripelvic cysts seen
on the current study. 
2. Findings concerning for cystitis and correlation with
urinalysis recommended. 
3. 4 mm nonobstructive left upper pole caliceal stone. No 
calculi
identified elsewhere in the urinary tract. 
4. Status post right nephrectomy. No evidence of residual or
recurrent mass within the limitations of a noncontrast study. 
5. 1.6 cm proteinaceous or hemorrhagic cyst in the lower pole of
the left kidney. 
6. Hepatic steatosis. 

US renal, ___: 
1. Mild hydronephrosis in the left kidney. No stones identified.
Multiple 
cortically based and parapelvic cysts measure up to 5 cm. 
2. Prostatomegaly with calculated prostatic volume of 109 cm3.
Post void 
residual of 27 cm3. 
3. Patient is status post right nephrectomy. 
Wet Read Audit # 1 by ___. on SAT ___ 6:21 
___

1. Patient is status post right nephrectomy. Mild hydronephrosis
in the remaining left kidney. No stones identified. Multiple
cortically based and parapelvic cysts measure up to 5 cm. 
2. Calculated prostatic volume of 109 cm3. 
3. Post void residual of 27 cm3. 

I personally reviewed the ECG and my interpretation is:
FROM ___, rate 94, sinus with probably LAE, LVH, no ST, TW
changes, no Q; QTc 420

___ 02:47PM BLOOD WBC-12.9* RBC-3.61* Hgb-11.4* Hct-33.8* 
MCV-94 MCH-31.6 MCHC-33.7 RDW-12.8 RDWSD-44.1 Plt ___
___ 06:57AM BLOOD WBC-9.3 RBC-3.24* Hgb-9.9* Hct-30.1* 
MCV-93 MCH-30.6 MCHC-32.9 RDW-13.1 RDWSD-44.7 Plt ___
___ 02:47PM BLOOD Glucose-178* UreaN-19 Creat-1.7* Na-135 
K-3.5 Cl-99 HCO3-22 AnGap-14
___ 06:57AM BLOOD Glucose-91 UreaN-19 Creat-1.4* Na-136 
K-3.7 Cl-102 HCO3-24 AnGap-___ with a solitary left
kidney s/p nephrectomy for reported RCC who presents with 
several days of dysuria, increased frequency and urgency, found 
to have a UTI on UA.  Pt's temp was 100 on admission but 
otherwise HD stable without a white count. 
initially treated as an outpatient with nitrofurantoin and this
was probably inadequate given the fact he has some mild renal
impairment because he has one kidney.

#Pyelonephritis
___ (resolved) Cr 1.7-->1.4 with fluids.
My review of his CT shows multiple peripelvic cysts I do not see
any obvious signs of hydronephrosis.  He has an interpolar renal
stone that is nonobstructing I do not think is worrisome.  He
does have a massive prostate, measuring around 100 g.

Outpatient follow-up with urology with me seems prudent, as 
management of BPH
may help prevent future UTIs. We will discharge him with a 7 day 
course of Levaquin and call him with the results of the urine 
culture. 

>30 minutes spent on discharge planning including >50% face to 
face time

Outstanding issues 
[ ] needs urology follow up in ___ weeks
[ ] will follow up urine cultures and tailor abx further if 
necessary. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MacroBID (nitrofurantoin monohyd/m-cryst) 100 mg oral Q12H 
2. Fexofenadine 60 mg PO Q12H:PRN seasonal allergies 

 
Discharge Medications:
1.  Levaquin x 6 days
2.  Fexofenadine 60 mg PO Q12H:PRN seasonal allergies  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pyelonephritis
___

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with a urinary tract infection 
that traveled to your kidneys. This is called pyelonephritis. We 
treated it with an antibiotic called ceftriaxone. Once you leave 
the hospital you should take a different antibiotic called 
Levaquin and stop taking macrobid/nitrofurantoin. You should 
also call the ___ clinic and make an appointment 
with Dr. ___ in ___ weeks. 
 
Followup Instructions:
___